US08058447B2
2,8-Dimethyl-4-oxo-4H-chromene-5-carbonitrile
0.2 g (1.06 mmol) of 5-amino-2,8-dimethyl-4H-chromen-4-one is dissolved in 5 ml of 45% strength sulfuric acid and cooled to 0° C. A solution of 0.11 g (1.6 mmol) of sodium nitrite in 5 ml of water is then added dropwise in such a way that the temperature does not exceed 5° C. The mixture is stirred at 0° C. for 90 min and then neutralized with sodium bicarbonate. A solution of 0.12 g (1.37 mmol) of copper(I) cyanide and 0.07 g (1.58 mmol) of sodium cyanide in 10 ml of water, cooled to 0° C. and covered with a layer of 50 ml of ethyl acetate, is then added. The mixture is stirred at 0° C. for 45 min. The reaction mixture is then filtered through kieselguhr. The organic phase is separated off and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution. After drying over magnesium sulfate, the solvent is removed in vacuo. 0.14 g (67% of theory) of the title compound is obtained.

reactant | 5-amino-2,8-dimethyl-4H-chromen-4-one | 1.06 mmol, 0.2 g | NC1=C2C(C=C(OC2=C(C=C1)C)C)=O | C11H11NO2
reactant | sodium nitrite | 1.6 mmol, 0.11 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | copper(I) cyanide | 1.37 mmol, 0.12 g | [Cu]C#N
reactant | sodium cyanide | 1.58 mmol, 0.07 g | [C-]#N.[Na+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2,8-Dimethyl-4-oxo-4H-chromene-5-carbonitrile | CC=1OC=2C(=CC=C(C2C(C1)=O)C#N)C | C12H9NO2
